US07378420B2
A. Synthesis of Tert-butyl 4-[cyano(1-methylpiperidin-4-yl)phenylmethyl]piperazine-1-carboxylate
A solution of 1-methyl-4-piperidinyl phenyl methanone 1.218 g (6 mmol), N-Boc piperazine 1.118 g (6 mmol) and titanium (IV) isoproxide 1.77 ml (6 mmol) in 1,2-dichloroethane (25 ml) was stirred at room temperature for 72 hours. Diethylaluminum cyanide (1M solution in toluene) 12 ml was added and the reaction mixture was stirred for another 24 hours. The reaction was quenched with saturated sodium bicarbonate solution (20 ml) and filtered. The filtrate was extracted with ethyl acetate twice. The combined ethyl acetate solution was washed with more saturated sodium bicarbonate solution and brine, dried over sodium sulfate, concentrated and applied to flash column chromatography using methylene chloride and methanol (100:2.5) as eluent to give 0.6 g of desired product in 25% yield.

reactant | 1-methyl-4-piperidinyl phenyl methanone | 6 mmol, 1.218 g | CC1(CC=C(C=C1)N1CCCCC1)C=O | C13H19NO
reactant | N-Boc piperazine | 6 mmol, 1.118 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | Diethylaluminum cyanide | 1M, 12 ml | [C-]#N.C(C)[Al+]CC
solvent | 1,2-dichloroethane | 25 ml | ClCCCl | C2H4Cl2
catalyst | titanium (IV) | 6 mmol, 1.77 ml | [Ti+4]
product | Tert-butyl 4-[cyano(1-methylpiperidin-4-yl)phenylmethyl]piperazine-1-carboxylate | 0.6 g, 25% yield | C(#N)C(N1CCN(CC1)C(=O)OC(C)(C)C)(C1=CC=CC=C1)C1CCN(CC1)C | C23H34N4O2
